US08975254B2
b) 2-Chloro-4-(1H-pyrazol-5-yl)benzonitrile
2-Chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile (3.67 g; 12.75 mmol) was added to 8 ml of ethanol under nitrogen atmosphere. 15.5 ml of ˜10% HCl (g) in EtOH was slowly added and the temperature was raised to 30° C. where the mixture was stirred for 1 h. The temperature was then lowered to −10° C. and the mixture was again stirred for 30 min after which the product was precipitated as its HCl salt and was filtered and washed twice with 2 ml of ethanol. The product was dried in vacuo at +40° C. Yield 2.8 g. 2-Chloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride (2.8 g; 11.47 mmol) was added to a mixture of 8 ml of water and 14 ml of MeOH under nitrogen atmosphere. To this 50% sodium hydroxide (1.5 ml; 28.7 mmol) was added keeping the temperature under 25° C. during the addition. The mixture was stirred for 2 h, the precipitate filtered and washed twice with 3 ml of lukewarm water. The product was dried in vacuo at +40° C. Yield 1.97 g. 1H-NMR (400 MHz; d6-DMSO): δ 6.99 (t, 1H), 7.89 (m, 1H), 7.99 (d, 2H), 8.15 (s, 1H), 13.27 (s, 1H).

reactant | 2-Chloro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)benzonitrile | 12.75 mmol, 3.67 g | ClC1=C(C#N)C=CC(=C1)C1=CC=NN1C1OCCCC1 | C15H14ClN3O
reactant | HCl | 15.5 ml | Cl | ClH
reactant | 2-Chloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride | 11.47 mmol, 2.8 g | Cl.ClC1=C(C#N)C=CC(=C1)C1=CC=NN1
reactant | sodium hydroxide | 28.7 mmol, 1.5 ml | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | MeOH | 14 ml | CO | CH4O
solvent | water | 8 ml | O | H2O
product | 2-Chloro-4-(1H-pyrazol-5-yl)benzonitrile | ClC1=C(C#N)C=CC(=C1)C1=CC=NN1 | C10H6ClN3
